* Z:\mnt\design.r\spice\examples\1474.asc
V1 IN 0 10
L1 N001 OUT 100µ
D1 0 N001 MBR0530L
C1 OUT 0 100µ
R1 OUT N005 1.68Meg
R2 N005 0 1Meg
XU1 N005 N003 N002 0 N001 IN IN N004 LTC1474 top=10 bot=1T
Rload OUT 0 25
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.lib LTC1474.sub
.backanno
.end
